US20010041720A1
Boc-Aib-OH (11,9 g, 58,4 mmol) was dissolved in dimethylacetamide (125 ml) in a one-neck roundbottom flask (500 ml) equipped with a magnetic stirrer and nitrogen bubbler. To the stirred solution at room temperature were added 1-hydroxy-7-azabenzotriazole (7,95 g, 58,4 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimid hydrochloride (11,2 g, 58,4 mmol), and diisopropylethylamine (13,0 ml, 75,8 mmol). After 20 min. (yellow with precipitation) a solution of the product from step h which is either 1-[(2R)-2-amino-3-(1H-indol-3-yl)propionyl]-(3R)-3-benzylpiperidine-3-carboxylic acid trimethylhydrazide or 1-[(2R)-2-amino-3-(1H-indol-3-yl)propionyl]-(3S)-3-benzylpiperidine-3-carboxylic acid trimethylhydrazide (27,0 g, 58,4 mmol) in dimethylacetamide (125 ml) was added. The reaction was stirred at room temperature for 3 h. The mixture was added to EtOAc (750 ml) and washed with aqueous NaHSO4 (300 ml, 10%). The layers were allowed to separate, and the aqueous layer was re-extracted with EtOAc (500 ml). The combined organic layers were washed with H2O (100 ml), aqueous NaHCO3 (300 ml, saturated), H2O (100 ml), brine (300 ml), dried over MgSO4, filtered and concentrated in vacuo to approx. 500 ml. Then SiO2 (150 g) was added and the remaining EtOAc removed in vacuo to give a dry powder which was applied onto a filter packed with SiO2(150 g), washed with heptan (1 L), and the desired compound was liberated with EtOAc (2,5 L). After concentration in vacuo, the product which is either {1-[(1R)-2-[(3R)-3-benzyl-3-(N,N′,N′-trimethylhydrazinocarbonyl)piperidin-1-yl]-1-(1H-indol-3-ylmethyl)-2-oxo-ethylcarbamoyl]-1-methylethyl}carbamic acid tert-butyl ester or {1-[(1R)-2-[(3S)-3-benzyl-3-(N,N′,N′-trimethylhydrazinocarbonyl)piperidin-1-yl]-1-(1H--indol-3-ylmethyl)-2-oxo-ethylcarbamoyl]-1-methylethyl}carbamic acid tert-butyl ester 33,9 g as an orange foam was obtained.

reactant | Boc-Aib-OH | 58,4 mmol, 11,9 g | N(C(C)(C)C(=O)O)C(=O)OC(C)(C)C | C9H17NO4
reactant | 1-hydroxy-7-azabenzotriazole | 58,4 mmol, 7,95 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimid hydrochloride | 58,4 mmol, 11,2 g | Cl.C(C)N=C=NCCCN(C)C
reactant | diisopropylethylamine | 75,8 mmol, 13,0 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-[(2R)-2-amino-3-(1H-indol-3-yl)propionyl]-(3R)-3-benzylpiperidine-3-carboxylic acid trimethylhydrazide | CN(N(C(=O)[C@@]1(CN(CCC1)C([C@@H](CC1=CNC2=CC=CC=C12)N)=O)CC1=CC=CC=C1)C)C | C27H35N5O2
reactant | 1-[(2R)-2-amino-3-(1H-indol-3-yl)propionyl]-(3S)-3-benzylpiperidine-3-carboxylic acid trimethylhydrazide | 58,4 mmol, 27,0 g | CN(N(C(=O)[C@]1(CN(CCC1)C([C@@H](CC1=CNC2=CC=CC=C12)N)=O)CC1=CC=CC=C1)C)C | C27H35N5O2
solvent | dimethylacetamide | 125 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 125 ml | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 750 ml | CCOC(=O)C | C4H8O2
product | {1-[(1R)-2-[(3S)-3-benzyl-3-(N,N′,N′-trimethylhydrazinocarbonyl)piperidin-1-yl]-1-(1H--indol-3-ylmethyl)-2-oxo-ethylcarbamoyl]-1-methylethyl}carbamic acid tert-butyl ester | 33,9 g | C(C)(C)(C)OC(NC(C)(C)C(N[C@@H](C(=O)N1C[C@@](CCC1)(C(=O)N(N(C)C)C)CC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)=O)=O | C36H50N6O5
